US04173641
1,2-Di-O-(n-hexadecyl)-3-O-(3-cyanobenzyl)-glycerol
Sodium hydride (50% mineral oil dispersion; 1.056 g, 0.022 mole) was added to a solution of 1,2-di-O-n-hexadecyl glycerol in tetrahydrofuran (150 ml) and stirred for 20 minutes under nitrogen. m-Cyanobenzylbromide (4.0 g, 0.020 mole) was added to the mixture and allowed to react to room temperature overnight. Water (200 ml) and then cautiously added and the aqueous mixture extracted with ethyl acetate (3×150 ml). The extracts were dried over magnesium sulfate, filtered and concentrated under reduced pressure to give an oil (12 g), which was chromatographed on silica gel (eluted with benzene/hexane, 8/2) resulting in pure 1,2-Di-O-(n-hexadecyl)-3-O-(3-cyanobenzyl)-glycerol (8.0 g): oil; ir(CHCl3) 2230 cm-1.

reactant | Sodium hydride | 0.022 mole, 1.056 g | [H-].[Na+]
reactant | 1,2-di-O-n-hexadecyl glycerol | C(CCCCCCCCCCCCCCC)OCC(OCCCCCCCCCCCCCCCC)CO | C35H72O3
reactant | m-Cyanobenzylbromide | 0.020 mole, 4.0 g | C(#N)C=1C=C(CBr)C=CC1 | C8H6BrN
reactant | Water | 200 ml | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1,2-Di-O-(n-hexadecyl)-3-O-(3-cyanobenzyl)-glycerol | 12 g | C(CCCCCCCCCCCCCCC)OCC(OCCCCCCCCCCCCCCCC)COCC1=CC(=CC=C1)C#N | C43H77NO3
